US07601722B2
In an analogous manner to general procedure V, 4-[3-(2-fluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]but-2-yn-1-yl methanesulfonate (0.25 g, 0.60 mmol) was treated with methyl amine to give 4-[3-(2-fluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]-N-methylbut-2-yn-1-amine hydrochloride (78 mg) after treatment with HCl.

reactant | 4-[3-(2-fluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]but-2-yn-1-yl methanesulfonate | 0.60 mmol, 0.25 g | CS(=O)(=O)OCC#CCN1S(N(C2=C1C=CC=C2)C2=C(C=CC=C2)F)(=O)=O | C17H15FN2O5S2
reactant | methyl amine | CN | CH5N
reactant | HCl | Cl | ClH
product | 4-[3-(2-fluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]-N-methylbut-2-yn-1-amine hydrochloride | 78 mg | Cl.FC1=C(C=CC=C1)N1S(N(C2=C1C=CC=C2)CC#CCNC)(=O)=O | InChI=1S/C17H16FN3O2S.ClH/c1-19-12-6-7-13-20-16-10-4-5-11-17(16)21(24(20,22)23)15-9-3-2-8-14(15)18;/h2-5,8-11,19H,12-13H2,1H3;1H
